US06136824
(a) 3-ethylphenoxyoxirane
To a stirred solution of 3-ethyl phenol (1.50 g, 12.28 mmol) in NaOH (1N) was added epichlorohydrin (2.07 g, 22.47 mmol). The reaction mixture was stirred at room temperature for 4 days. Excess epichlorohydrin was removed by concentration in vacuo and the two-phase mixture treated with NaOH (1N) (10 ml) after addition of THF (10 ml). The reaction mixture was heated to 55° C. for 15 minutes and then stirred at room temperature for 30 minutes. The THF was removed by concentration in vacuo and the product extracted with ethyl acetate (2×50 ml), concentrated in vacuo and purified by flash column chromatography on silica (150:10:1 dichloromethane:methanol:ammonia) to give the product as a yellow oil.

reactant | 3-ethyl phenol | 12.28 mmol, 1.50 g | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | epichlorohydrin | 22.47 mmol, 2.07 g | C(Cl)C1CO1 | C3H5ClO
solvent | NaOH | 1N | [OH-].[Na+]
product | 3-ethylphenoxyoxirane | C(C)C=1C=C(OC2OC2)C=CC1 | C10H12O2
